US07504429B2
benzyl 5-(3-cyanophenyl)4-ethyl-2-formyl-1H-pyrrole-3-carboxylate
Following the procedures described in Example 5, replacing methyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate with benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate and 4-fluorophenylboronic acid with 3-cyanophenylboronic acid, the title compound was obtained. Proton NMR for the product was consistent with the title compound. HRMS (ES) exact mass calculated for C22H19N2O3 (M+H): 359.1390. Found 359.1394

reactant | benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate | C(C)C=1C(=C(NC1I)C=O)C(=O)OCC1=CC=CC=C1 | C15H14INO3
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 3-cyanophenylboronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | benzyl 5-(3-cyanophenyl)4-ethyl-2-formyl-1H-pyrrole-3-carboxylate | C(#N)C=1C=C(C=CC1)C1=C(C(=C(N1)C=O)C(=O)OCC1=CC=CC=C1)CC | C22H18N2O3
